* C:\Users\João Pedro\Desktop\Modulador\circuit.asc
* Generated by LTspice 24.1.10 for Windows.
V1 3v3 0 3.3
R1 V_TIA N002 700k
C1 V_TIA N002 2p
R42 N006 V_TIA 4.7k
R43 1.6V N006 11k
C10 V_f N006 0.0033µ
C11 N004 N006 0.47µ
R44 V_f N004 4.7k
R3 3v3 N001 10k
R4 N001 0 10k
C2 N001 0 10n
R2 N002 N005 1µ
I1 N005 0 PWL file="C:\Users\João Pedro\Desktop\Modulador\testegenerate_1k.txt" AC 1
XU1 0 N002 3v3 0 V_TIA level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
XU2 1.6V N004 3v3 0 V_f level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
XU4 N001 1.6V 3v3 0 1.6V level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
V2 N003 0 1.65
XU3 V_f N003 3v3 0 v_comp2 LT1001 ;§pnba In+)In-)V+)V-)OUT
V3 V_ref 0 SINE(1.65 1.65 50k)
R5 V_ref 0 1
R7 N010 V_TIA 4.7k
R8 1.6V N010 8.2k
C4 N007 N010 68p
C5 N009 N010 0.01µ
R9 N007 N009 4.7k
XU6 1.6V N009 3v3 0 N007 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
V4 N008 0 1.65
XU5 N007 N008 3v3 0 V_COMP 0 LT1015 ;§pnba In+)In-)VCC)VEE)OUT+)LATCH
.tran 0 400u 0 1u
.lib LT1015.sub
.lib LTC.lib
.lib UniversalOpAmp1.lib
.backanno
.end
